US07727979B2
N-benzylglycine ethyl ester (1.87 ml) and 5-bromovaleric acid ethyl ester (1.92 ml) are dissolved in dimethylformamide (100 ml) and stirred in the presence of potassium carbonate (1.66 g) for 2 days at room temperature. The reaction is quenched with saturated aqueous ammonium chloride solution, and extraction is carried out with ethyl acetate. After drying over sodium sulphate the combined organic phases are concentrated by evaporation. From the obtained residue, 5-(benzyl-ethoxycarbonylmethyl-amino)-pentanoic acid is isolated in a yield of 30% by chromatography using silica gel (ethyl acetate/heptane 1:5).

reactant | N-benzylglycine ethyl ester | 1.87 ml | C(C)OC(CNCC1=CC=CC=C1)=O | C11H15NO2
reactant | 5-bromovaleric acid ethyl ester | 1.92 ml | C(C)OC(CCCCBr)=O | C7H13BrO2
reactant | potassium carbonate | 1.66 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 5-(benzyl-ethoxycarbonylmethyl-amino)-pentanoic acid | yield of 30% | C(C1=CC=CC=C1)N(CCCCC(=O)O)CC(=O)OCC | C16H23NO4
